US07294716B2
2-Carbamoylmethoxy-4-{(5-methoxy-2-nitrophenyl)aminosulfonyl}phenoxyacetamide (Intermediate A67)
A mixture of 4-aminosulfonyl-2-carbamoylmethoxyphenoxyacetamide (Intermediate A66, 12.1 g, 0.040 mol), potassium carbonate (11.0 g, 0.80 mol), and dimethylacetamide (160 mL) was heated at reflux as 3-fluoro-4-nitroanisole (6.84 g, 0.040 mol) in 40 mL dimethylacetamide was added dropwise over 40 min. After an additional 30 min at reflux, the mixture was allowed to cool overnight. It was then diluted with 200 mL of water and filtered with the aid of additional water. The filtrate was brought to pH 5, and the resulting solid was collected and washed with water. After air-drying, the product, title compound weighed 15 g (80%).

reactant | 4-aminosulfonyl-2-carbamoylmethoxyphenoxyacetamide | 0.040 mol, 12.1 g | NS(=O)(=O)C1=CC(=C(OCC(=O)N)C=C1)OCC(N)=O | C10H13N3O6S
reactant | potassium carbonate | 0.80 mol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoro-4-nitroanisole | 0.040 mol, 6.84 g | FC=1C=C(C=CC1[N+](=O)[O-])OC | C7H6FNO3
solvent | dimethylacetamide | 40 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 200 mL | O | H2O
solvent | dimethylacetamide | 160 mL | CC(=O)N(C)C | C4H9NO
product | 2-Carbamoylmethoxy-4-{(5-methoxy-2-nitrophenyl)aminosulfonyl}phenoxyacetamide | C(N)(=O)COC1=C(OCC(=O)N)C=CC(=C1)S(=O)(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C17H18N4O9S
